data/mechanisms/records/IMS8-EQ8.114.json
{"mechanism_id": "IMS8-EQ8.114", "species": [{"species_id": "dimethoxycyclohexane_molecular_ion", "mapped_smiles": "[CH3:3][O+:2][CH:1]1[CH2:4][CH2:5][CH2:6][CH:7]([O:8][CH3:9])[CH2:10]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_distonic_oxocarbenium", "mapped_smiles": "[CH2:4][CH2:5][CH2:6][CH:7]([O:8][CH3:9])[CH2:10][CH:1]=[O+:2][CH3:3]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "dimethoxycarbenium_ion", "mapped_smiles": "[CH3:3][O+:2]=[CH:1][O:8][CH3:9]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "pent_4_enyl_radical", "mapped_smiles": "[CH2:4][CH2:5][CH2:6][CH:7]=[CH2:10]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["dimethoxycyclohexane_molecular_ion"]}, {"state_id": "state_distonic", "species_ids": ["ring_opened_distonic_oxocarbenium"]}, {"state_id": "state_products", "species_ids": ["dimethoxycarbenium_ion", "pent_4_enyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_distonic", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_re_methoxyl_migration", "from_state": "state_distonic", "to_state": "state_products", "step_class": "elimination_with_group_migration", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [1, 10]}, "target": {"type": "bond", "atom_maps": [7, 10]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_alpha_8_114", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 218, "equation": "8.114", "figure": null, "panel": "first arrow, labelled 'alpha'", "section": "Elimination reactions with group migrations"}, "confidence": 0.85, "curator_note": "SUBSTRATE READ FROM THE DRAWING (bottom of printed p. 218): a cycloalkane drawn as two horizontal rows joined by two diagonals - upper row '(CH2)m-CH-OCH3', lower row 'CH3O-CH-(CH2)n', with a diagonal from the left end of (CH2)m down to the lower CH and a diagonal from the upper CH down to the right end of (CH2)n. That is a ring CH(a)-(CH2)m-CH(b)-(CH2)n- back to CH(a), i.e. a cycloalkane carrying two methoxyl groups (map 2/3 on CH(a) = map 1, map 8/9 on CH(b) = map 7). A '+.' is printed on the OXYGEN of the upper OCH3 - n-ionization at that ether oxygen (mapped [O+:2]). The running text on the same page introduces it: 'In cycloalkanes with three or more methoxy groups, Equation 8.114 gives rise to a major peak in the spectrum' (methoxyl migration, Budzikiewicz et al. 1967; Winkler and Gruetzmacher 1970). NOTE the mismatch the book itself leaves: the prose says three or more methoxyls, the FIGURE draws two - this record encodes the FIGURE. ARC COUNT (convention D): Book draws 2 arc(s), both above the upper row and both converging on the CH(a)-O bond, i.e. on the forming C=O+ pi bond: the right-hand arc starts at the '+.' odd electron on the oxygen and sweeps left-down; the left-hand arc starts on the (CH2)m-CH(a) bond and sweeps right-down. Both heads are single-barbed fishhooks. Moves <1,2> are those two drawn arcs; move <3> is an implicit homolysis hook required for electron balance (not drawn on the page) - it carries the second electron of the cleaving CH(a)-(CH2)m sigma bond onto the chain carbon (map 4), which is exactly what produces the radical dot the book itself prints on '.(CH2)m' in the intermediate. LOCALIZATION (convention B): the precursor SMILES puts charge AND odd electron on the ionized ether oxygen ([O+:2] with two bonds = one unpaired electron), matching the drawn '+.', so arc 1 has a real origin. INSTANTIATION (convention F): the scheme is generic in m and n; this record uses m = 3 and n = 1, i.e. 1,3-dimethoxycyclohexane (C8H16O2, M+. m/z 144.1145), a real compound of the drawn class. The step is the textbook radical-site alpha cleavage: the ring bond alpha to the charged oxygen breaks and the ring OPENS to the distonic ion the book draws next, .(CH2)m-CH(OCH3)-(CH2)n-CH=O+CH3."}, {"evidence_id": "ev_step_re_8_114", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_re_methoxyl_migration", "support_type": "textbook_proposed", "locator": {"page": 218, "equation": "8.114", "figure": null, "panel": "second arrow, labelled 're'", "section": "Elimination reactions with group migrations"}, "confidence": 0.75, "curator_note": "Equation 8.114, SECOND arrow, labelled 're' (elimination). The book prints the intermediate on the left as the ring-opened distonic ion '.(CH2)m-CH(-OCH3)-(CH2)n-CH=+OCH3' (radical dot drawn on the (CH2)m terminus, '+' drawn on the oxocarbenium oxygen) and the single product on the right as 'CH3O-CH=+OCH3' labelled 'm/z 75'. This is the ABCD+ -> AD+ + BC elimination of Equation 8.106 with A = the migrating methoxyl (maps 8/9) and D = the oxocarbenium carbon (map 1): the C(b)-OCH3 bond and the C(a)-(CH2)n bond both break, the new C(a)-OCH3 bond forms, and a C=C forms between the two carbons that lost those groups. ARC COUNT (convention D): Book draws 2 arc(s). Arc 1 starts on the vertical CH3O-C(b) bond, runs right and curls up, its head pointing up-right toward the 'C' of 'CH=+OCH3' - the methoxyl migrating with its bonding pair to the oxocarbenium carbon. Arc 2 starts on the diagonal (CH2)n-C(a) bond and sweeps down-left, its head pointing at the bond between 'C H' (= C(b)) and '(CH2)n' - that sigma pair becoming the new C=C pi bond. Moves <1,2> are those two drawn arcs; NO move is implicit - the two arcs account for all four bonds that change, and every species involved keeps its electron count (the (CH2)m radical is a spectator that is simply carried through). Both are transcribed as two-electron (heterolytic) moves: the migrating group moves as an intact substituent and both drawn products are correct closed-/odd-shell species under that reading. INSTANTIATION AND ITS ONE HONEST CAVEAT (convention F): with n = 1 (the value chosen here, m = 3, i.e. 1,3-dimethoxycyclohexane) the carbon that loses the methoxyl (map 7) and the carbon that loses the oxocarbenium fragment (map 10) are ADJACENT, so arc 2 forms a genuine C=C double bond exactly where its head points, and the neutral is the pent-4-enyl radical .CH2CH2CH2-CH=CH2 (C5H9, 69.0704). For n > 1 those two carbons are NOT adjacent and the same two drawn arcs would have to close a RING (a cycloalkane) instead of forming an alkene - the generic drawing does not resolve this, and the choice n = 1 is the curator's, made so that the encoded arrows produce precisely the drawn product. The ION is unaffected by m and n: CH3O-CH=O+CH3, C3H7O2+, the m/z 75 the book prints. RESONANCE (convention C): the dimethoxycarbenium ion is symmetric - CH3O-CH=O+CH3 and CH3O+=CH-OCH3 are equivalent resonance forms. The book draws the '+' on the RIGHT-HAND oxygen, i.e. on the oxygen that was already the oxocarbenium oxygen (map 2), and the migrated methoxyl as the neutral-drawn 'CH3O-'; the encoding uses exactly that form ([O+:2] double bonded, [O:8] single bonded)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 144.1145, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_75", "species_id": "dimethoxycarbenium_ion", "step_id": "step_re_methoxyl_migration", "observed_mz": 75.0441, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
